### PR TITLE
[Merged by Bors] - chore: use `IsLUB` `IsGLB` in `CompleteLattice`

### PR DESCRIPTION
**Pull request by astrainfinita**
---

- [ ] depends on: #35297

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Tropical/Lattice.lean [hunk 1]
```diff
@@ -57,14 +57,10 @@ instance [InfSet R] : InfSet (Tropical R) where sInf s := trop (sInf (untrop ''
...
   { instLatticeTropical with
-    le_csSup := fun _s _x hs hx ↦
-      le_csSup (untrop_monotone.map_bddAbove hs) (Set.mem_image_of_mem untrop hx)
-    csSup_le := fun _s _x hs hx ↦
-      csSup_le (hs.image untrop) (untrop_monotone.mem_upperBounds_image hx)
-    le_csInf := fun _s _x hs hx ↦
-      le_csInf (hs.image untrop) (untrop_monotone.mem_lowerBounds_image hx)
-    csInf_le := fun _s _x hs hx ↦
-      csInf_le (untrop_monotone.map_bddBelow hs) (Set.mem_image_of_mem untrop hx) }
+    isLUB_csSup _ hn hb :=
```
Comment (vihdzp) [inline Mathlib/Algebra/Tropical/Lattice.lean]: Can you use `where` notation here? (In particular, I don't think you need to refer to `instLatticeTropical` explicitly)

File: Mathlib/CategoryTheory/Subfunctor/Basic.lean [hunk 2]
```diff
@@ -76,15 +76,13 @@ instance : CompleteLattice (Subfunctor F) where
         simp only [Set.sSup_eq_sUnion, Set.sUnion_image, Set.preimage_iUnion,
           Set.mem_iUnion, Set.mem_preimage, exists_prop]
         exact ⟨_, h, F.map f h'⟩ }
-  le_sSup _ _ _ _ _ := by aesop
-  sSup_le _ _ _ _ _ := by aesop
+  isLUB_sSup _ := ⟨fun _ _ _ _ ↦ by aesop, fun _ _ _ ↦ by aesop⟩
```
Comment (vihdzp) [inline Mathlib/CategoryTheory/Subfunctor/Basic.lean:78]: Can you merge this into a single `aesop` call? Same below.

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 3]
```diff
@@ -464,15 +464,17 @@ def completelyDistribLatticeMinimalAxioms : CompletelyDistribLattice.MinimalAxio
...
-  le_sSup s G' hG' := ⟨by apply Set.subset_iUnion₂ G' hG', fun _ _ hab => ⟨G', hG', hab⟩⟩
-  sSup_le s G' hG' :=
-    ⟨Set.iUnion₂_subset fun _ hH => (hG' _ hH).1, by
-      rintro a b ⟨H, hH, hab⟩
-      exact (hG' _ hH).2 hab⟩
-  sInf_le _ G' hG' := ⟨Set.iInter₂_subset G' hG', fun _ _ hab => hab.1 hG'⟩
-  le_sInf _ G' hG' :=
-    ⟨Set.subset_iInter₂ fun _ hH => (hG' _ hH).1, fun _ _ hab =>
-      ⟨fun _ hH => (hG' _ hH).2 hab, G'.adj_sub hab⟩⟩
+  isLUB_sSup _ :=
```
Comment (vihdzp) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:477]: a) Would it be any nicer to put this proof in a single `by` block?
b) Is the porting note still relevant?

File: Mathlib/Data/Set/BooleanAlgebra.lean [hunk 4]
```diff
@@ -31,10 +31,8 @@ namespace Set
 
 instance instCompleteAtomicBooleanAlgebra : CompleteAtomicBooleanAlgebra (Set α) :=
   { instBooleanAlgebra with
-    le_sSup := fun _ t t_in _ a_in => ⟨t, t_in, a_in⟩
-    sSup_le := fun _ _ h _ ⟨t', ⟨t'_in, a_in⟩⟩ => h t' t'_in a_in
-    le_sInf := fun _ _ h _ a_in t' t'_in => h t' t'_in a_in
-    sInf_le := fun _ _ t_in _ h => h _ t_in
+    isLUB_sSup _ := ⟨fun s hs _ hx ↦ ⟨s, hs, hx⟩, fun _ h _ ⟨_, ⟨hs, hx⟩⟩ => h hs hx⟩
```
Comment (vihdzp) [inline Mathlib/Data/Set/BooleanAlgebra.lean]: `where` notation?

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean [hunk 5]
```diff
@@ -487,8 +487,7 @@ variable {k : Type*} {V : Type*} {P : Type*} [Ring k] [AddCommGroup V] [Module k
   [S : AffineSpace V P] {ι : Sort*}
 
 instance : CompleteLattice (AffineSubspace k P) :=
-  {
-    PartialOrder.lift ((↑) : AffineSubspace k P → Set P)
+  { PartialOrder.lift ((↑) : AffineSubspace k P → Set P)
```
Comment (vihdzp) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: `where` notation?

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean [hunk 6]
```diff
@@ -1077,8 +1077,7 @@ set_option backward.privateInPublic.warn false in
 instance instCompleteSemilatticeInf {_ : MeasurableSpace α} : CompleteSemilatticeInf (Measure α) :=
   { (by infer_instance : PartialOrder (Measure α)),
     (by infer_instance : InfSet (Measure α)) with
-    sInf_le := fun _s _a => measure_sInf_le
-    le_sInf := fun _s _a => measure_le_sInf }
+    isGLB_sInf _ := ⟨fun x ↦ measure_sInf_le, fun _ ↦ by exact measure_le_sInf⟩ }
```
Comment (vihdzp) [inline Mathlib/MeasureTheory/Measure/MeasureSpace.lean]: `where` notation? (and can you remove the `infer_instance`s?)

File: Mathlib/Order/Atoms.lean [hunk 7]
```diff
@@ -893,26 +893,30 @@ protected noncomputable def completeLattice : CompleteLattice α :=
...
-      · rw [if_pos h]
-      · exact le_top
-    le_sInf := fun s x h => by
-      rcases eq_bot_or_eq_top x with (rfl | rfl)
-      · exact bot_le
-      · rw [if_neg]
-        intro con
-        exact top_ne_bot (eq_bot_iff.2 (h ⊥ con)) }
+    isLUB_sSup s := by
+      constructor
```
Comment (vihdzp) [inline Mathlib/Order/Atoms.lean]: Perhaps?
```suggestion
      refine ⟨fun x h ↦ ?_, fun x h ↦ ?_⟩
```

File: Mathlib/Order/CompleteBooleanAlgebra.lean [hunk 8]
```diff
@@ -876,12 +876,9 @@ variable (s : Set PUnit.{u + 1})
 
 instance instCompleteAtomicBooleanAlgebra : CompleteAtomicBooleanAlgebra PUnit where
   __ := PUnit.instBooleanAlgebra
+  __ := PUnit.instCompleteLinearOrder
```
Comment (vihdzp) [inline Mathlib/Order/CompleteBooleanAlgebra.lean]: Do you need these `__ := ...`?

File: Mathlib/Order/CompleteLattice/PiLex.lean [hunk 9]
```diff
@@ -50,18 +50,17 @@ theorem le_sInf_apply {s : Set (Πₗ i, α i)} {i : ι} {e : Πₗ i, α i}
...
-  exact ha.2.not_ge (sInf_apply_le he ha.1)
-
-private theorem le_sInf {s : Set (Πₗ i, α i)} {e : Πₗ i, α i}
-    (h : ∀ b ∈ s, e ≤ b) : e ≤ sInf s := by
-  by_contra! hs
-  obtain ⟨a, ha⟩ := hs
-  refine ha.2.not_ge <| le_sInf_apply fun f hf hf' ↦ apply_le_of_toLex (h f hf) ?_
-  simp_all
+private theorem isGLB_sInf {s : Set (Πₗ i, α i)} : IsGLB s (sInf s) := by
+  constructor
```
Comment (vihdzp) [inline Mathlib/Order/CompleteLattice/PiLex.lean]:
```suggestion
  refine ⟨fun e he ↦ ?_, fun e h ↦ ?_⟩
```

Comment (vihdzp) [reply Mathlib/Order/CompleteLattice/PiLex.lean]: Likewise below

File: Mathlib/Order/ConditionallyCompleteLattice/Defs.lean [hunk 10]
```diff
@@ -44,14 +44,10 @@ complete lattices, we prefix `sInf` and `sSup` by a `c` everywhere. The same sta
...
-  /-- `a ≤ sSup s` for all `a ∈ s`. -/
-  le_csSup : ∀ s a, BddAbove s → a ∈ s → a ≤ sSup s
-  /-- `sSup s ≤ a` for all `a ∈ upperBounds s`. -/
-  csSup_le : ∀ s a, Set.Nonempty s → a ∈ upperBounds s → sSup s ≤ a
-  /-- `sInf s ≤ a` for all `a ∈ s`. -/
-  csInf_le : ∀ s a, BddBelow s → a ∈ s → sInf s ≤ a
-  /-- `a ≤ sInf s` for all `a ∈ lowerBounds s`. -/
-  le_csInf : ∀ s a, Set.Nonempty s → a ∈ lowerBounds s → a ≤ sInf s
+  /-- Every nonempty subset which is bounded above has a least upper bound. -/
+  isLUB_csSup : ∀ s : Set α, s.Nonempty → BddAbove s → IsLUB s (sSup s)
```
Comment (vihdzp) [inline Mathlib/Order/ConditionallyCompleteLattice/Defs.lean]: Is it any easier to split this into a separate PR? i.e. this PR would just do this change for `CompleteLattice`, the successive PR would do it on `ConditionallyCompleteLattice`, etc.

File: Mathlib/Order/Interval/Basic.lean [hunk 11]
```diff
@@ -600,17 +600,19 @@ variable [CompleteLattice α]
...
-          if h : S ⊆ {⊥} then ⊥
-          else
-            WithBot.some
-              ⟨⟨⨅ (s : NonemptyInterval α) (_ : ↑s ∈ S), s.fst,
-                  ⨆ (s : NonemptyInterval α) (_ : ↑s ∈ S), s.snd⟩, by
-                obtain ⟨s, hs, ha⟩ := not_subset.1 h
-                lift s to NonemptyInterval α using ha
-                exact iInf₂_le_of_le s hs (le_iSup₂_of_le s hs s.fst_le_snd)⟩
-        le_sSup := fun s s ha => by
+    { Interval.lattice, Interval.boundedOrder with
```
Comment (vihdzp) [inline Mathlib/Order/Interval/Basic.lean]: `where` notation?

File: Mathlib/Topology/Algebra/Module/ClosedSubmodule.lean [hunk 12]
```diff
@@ -288,15 +287,16 @@ instance : SemilatticeSup (ClosedSubmodule R N) where
...
-  le_sSup s a ha x hx := subset_closure <| Submodule.mem_iSup_of_mem _ <|
-    Submodule.mem_iSup_of_mem ha hx
-  sSup_le s a h x := by
-    rw [← ClosedSubmodule.closure_toSubmodule_eq (s := a)]
-    apply closure_mono
-    simp only [Submodule.coe_toAddSubmonoid, coe_toSubmodule]
-    intro y hy
-    simp only [SetLike.mem_coe, Submodule.mem_iSup] at hy
-    exact hy a fun b _ hz ↦ Submodule.mem_iSup _ |>.mp hz _ <| fun hb ↦ h b hb
+  isLUB_sSup _ :=
```
Comment (vihdzp) [inline Mathlib/Topology/Algebra/Module/ClosedSubmodule.lean]: Would it be cleaner to have this in a single `by` block?

**Review by vihdzp — APPROVED** [review]
I like this very much! It makes the definition much more transparent and allows us to use existing API on `IsLUB`/`IsGLB` better.

I've left a bunch of stylistic suggestions, most of them are safely ignored.

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean (hunk 3 above)
Comment (astrainfinita) [reply Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:477]: Replacing `Set.subset_iUnion₂` with `Set.subset_biUnion_of_mem` avoids `by apply`.

File: Mathlib/CategoryTheory/Subfunctor/Basic.lean (hunk 2 above)
Comment (astrainfinita) [reply Mathlib/CategoryTheory/Subfunctor/Basic.lean:78]: `aesop` doesn't know to unfold the definition.

File: Mathlib/Order/ConditionallyCompleteLattice/Defs.lean (hunk 10 above)
Comment (astrainfinita) [reply Mathlib/Order/ConditionallyCompleteLattice/Defs.lean]: #35774

File: Mathlib/CategoryTheory/Subfunctor/Basic.lean (hunk 2 above)
Comment (Vierkantor) [reply Mathlib/CategoryTheory/Subfunctor/Basic.lean:78]: I tried to add a few aesop lemmas to unfold the definitions, but we want to unfold `Set.subset_def` (which is not a safe rule in general, since we want to reason on the level of subsets, not on the level of elements). So I think doing everything in one `aesop` is a bit too much work right now.

**Review by Vierkantor — APPROVED** [review]
Most of these changes are quite good, but there are some regressions where the proof becomes quite deeply nested: I would like to see changes like

```diff
-  isGLB_sInf _ := ⟨sInf_le _, le_sInf _⟩
+  (isGLB_sInf _).mem := sInf_le _
+  (isGLB_sInf _).lower := le_sInf _
```
(After changing `IsGLB` into a structure with the correct fields.)

But the syntax I suggest above doesn't exist (for writing fields after function arrows). So I think the current version is good enough, it definitely overall improves Mathlib!

bors d+
